US05229516
A. 1-Methyl-1,3,4,9-tetrahydro-6-(phenylmethoxy)pyrano[3,4-b]indole-1-aceticacid, ethyl ester
A mixture consisting of 5-benzyloxytryptophol (4.5 g, 0.017 mol), benzene (200 mL), ethyl acetoacetate (3.4 g, 0.026 mol) and p-toluenesulfonic acid (0.5 g) is refluxed for 2.5 hours using a Dean-stock trap to remove the water. The reaction mixture is cooled to room temperature and washed with 5% sodium bicarbonate, (1×200 mL), water (200 mL) and brine (100 mL), dried (MgSO4), filtered and concentrated to give 8.0 g of crude product as a thick oil, which is flash chromatographed on silica gel using 20% ethyl acetate/hexane as an eluent to afford 5.5 g oil which solidifies upon standing, m.p. 96°-98° C.

reactant | 5-benzyloxytryptophol | 0.017 mol, 4.5 g | C1=CC=C(C=C1)COC2=CC3=C(C=C2)NC=C3CCO | C17H17NO2
reactant | ethyl acetoacetate | 0.026 mol, 3.4 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 1-Methyl-1,3,4,9-tetrahydro-6-(phenylmethoxy)pyrano[3,4-b]indole-1-aceticacid, ethyl ester | 5.5 g | CC1(OCCC2=C1NC1=CC=C(C=C21)OCC2=CC=CC=C2)CC(=O)OCC | C23H25NO4
